US06815448B2
2-Methyl-8-(piperidin-1-ylmethyl)-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene
(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate (0.38 g, 1 mmole) and piperidine 15 ml were combined and heated at 80° C. under nitrogen for 4 hours. After completion, piperidine was removed under vacuum and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The crude oil was column chromatographed on silica gel using first methylene chloride to remove impurities and then 1% methanol/methylene chloride to elute the (S)-enantiomer of the title compound. This was recrystallized from ethanol with the addition of one equivalent of fumaric acid to give 0.24 g of white solid, m.p. 109-112° C.

reactant | (8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate | 1 mmole, 0.38 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | piperidine | 15 ml | N1CCCCC1 | C5H11N
reactant | fumaric acid | one equivalent | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-8-(piperidin-1-ylmethyl)-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene | 0.24 g | CC1=NC=2C(=C3OC(COC3=CC2)CN2CCCCC2)O1 | C16H20N2O3
